US07420066B2
A suspension of 2-(6-Bromo-pyridin-2-ylmethyl)-isoindole-1,3-dione (4000 mg, 12.61 mmol) in ethanol (60 mL ) was heated at 70° C. until complete dissolution was observed. Hydrazine hydrate (3156 mg, 63.06 mmol) was then added and the resulting mixture was heated at 70° C. for 5 h. The resulting solution was cooled to 0° C. and filtered. The filtrate was concentrated in vacuo and the crude residue was purified by column chromatography with a gradient of 0 to 30% methanol/dichloromethane to give C-(6-Bromo-pyridin-2-yl)-methylamine as a yellow solid (2070 mg, 79%). MS ES (MH+187.1, RT=1.11 min).

reactant | 2-(6-Bromo-pyridin-2-ylmethyl)-isoindole-1,3-dione | 12.61 mmol, 4000 mg | BrC1=CC=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | Hydrazine hydrate | 63.06 mmol, 3156 mg | O.NN
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | C-(6-Bromo-pyridin-2-yl)-methylamine | 2070 mg, 79% | BrC1=CC=CC(=N1)CN | C6H7BrN2
